US08357693B2
The crude tert-butyl 5-(2-(3-(2-(isopropylamino)-2-oxoethoxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate from the previous step was taken up in CH2Cl2 (2 mL) and TFA (5 mL). The mixture was stirred at RT for 2 h. The mixture was concentrated in vacuo and a portion of the residue was purified by preparative HPLC (10-35-90, 10-30-90, 0-15-90, 5-20-90 and 20-40-90 methods) to give 2-(3-(4-(1H-indazol-5-ylamino)-7-methoxy-6-(2-methoxyethoxy)-quinazolin-2-yl)phenoxy)-N-isopropylacetamide (0.039 g, 68.4 μmol). MS 557 (M+1). HPLC retention time 5.48 mins.

reactant | tert-butyl 5-(2-(3-(2-(isopropylamino)-2-oxoethoxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)NC(COC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC)OC)=O | C35H40N6O7
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(3-(4-(1H-indazol-5-ylamino)-7-methoxy-6-(2-methoxyethoxy)-quinazolin-2-yl)phenoxy)-N-isopropylacetamide | 68.4 μmol, 0.039 g | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC(=C(C=C12)OCCOC)OC)C=1C=C(OCC(=O)NC(C)C)C=CC1 | C30H32N6O5
